### PR TITLE
Permutations of νTypes

### PR DESCRIPTION
**Pull request by alicelaroche**
Permutations of νTypes from Alice Laroche's internship.

### CODE REVIEW

File: bonak.opam [hunk 1]
```diff
@@ -9,7 +9,7 @@ homepage: "https://github.com/artagnon/bonak"
 bug-reports: "https://github.com/artagnon/bonak/issues"
 dev-repo: "git+https://github.com/artagnon/bonak"
 depends: [
-  "coq"  { >= "8.20.0" }
+  "rocq"  { >= "9.0" }
```
Comment (artagnon) [inline bonak.opam:12]: Kindly keep "coq", as the transition packages providing the coq layer to dune are present in it. Changing it to rocq causes problems for the CI.

File: theories/νType/LeYoneda.v [hunk 2]
```diff
@@ -5,7 +5,8 @@
 From Bonak Require Import Notation.
 From Bonak Require Import LeInductive.
 
-From Coq Require Import StrictProp.
+
```
Comment (artagnon) [inline theories/νType/LeYoneda.v:8]: Stray newline?

File: theories/νType/LeYoneda.v [hunk 3]
```diff
@@ -75,6 +86,10 @@ Qed.
 
 Notation "↑ h" := (leY_up h) (at level 40).
 
+Lemma leY_zero n: 0 <= n.
```
Comment (artagnon) [inline theories/νType/LeYoneda.v:89]:
```suggestion
Lemma leY_O n: 0 <= n.
```

File: theories/νType/RewLemmas.v [hunk 4]
```diff
@@ -144,3 +150,18 @@ Lemma rew_eq_refl : forall A B (x y: A) (f : A -> B) (H: x = y),
...
+  exact (map_subst (fun _ bc => bc.1) H bc).
+Defined.
+
+Lemma map_subst_projT2 {A : Type} {B : A -> Type} {C : sigT B -> Type}
+{a a' : A} (H : a = a') (bc : sigT (fun b => (C (a ; b)))) :
+ rew [C] (=H ; map_subst_projT1 H bc) in bc.2 =
+ (rew [fun a => sigT (fun b => (C (a ; b)))] H in bc).2.
+Proof.
+  now destruct H.
+Defined.
```
Comment (artagnon) [inline theories/νType/RewLemmas.v:167]: Kindly add a newline at the end of the file (whitespace error).

File: theories/νType/νType.v [hunk 5]
```diff
@@ -232,6 +234,11 @@ Class νType n := {
     rew <- [id] eqPaintingSp' in
       (RestrLayer ε l; rew [PaintingPrev.(painting')] eqRestrFrameSp in
         Painting.(restrPainting) p.+1 q.+1 Q);
+  eqRestrPainting0' {p} {Hp : p.+2 <= n} {ε : arity} {D d}
+    {l : (Layer') d}
```
Comment (artagnon) [inline theories/νType/νType.v:238]:
```suggestion
    {l : Layer' d}
```

File: theories/νType/νType.v [hunk 6]
```diff
@@ -232,6 +234,11 @@ Class νType n := {
...
+    {Q : (PaintingPrev) .(painting') (D := D) (rew <- [id] eqFrameSp' in (d; l))} :
+    l ε = (PaintingPrev) .(restrPainting') p p ε
```
Comment (artagnon) [inline theories/νType/νType.v:240]:
```suggestion
    {Q : (PaintingPrev).(painting') (D := D) (rew <- [id] eqFrameSp' in (d; l))} :
    l ε = (PaintingPrev).(restrPainting') p p ε
```

File: theories/νType/νType.v [hunk 7]
```diff
@@ -396,6 +404,13 @@ Proof.
   unfold mkPaintingType; now rewrite le_induction_base_computes.
 Qed.
 
+Lemma mkPaintingType_base_computes' {n} {C: νType n}
+  {D E} {d: (mkFrame n.+1).(frame n.+1) D}:
+  mkPaintingType n n.+1 E d = E d :> Type.
+Proof.
+  unfold mkPaintingType; now rewrite le_induction_base_computes.
+Qed.
+
```
Comment (artagnon) [inline theories/νType/νType.v:413]: I think you can attach `:> Type` to the previous lemma?

File: theories/νType/νType.v [hunk 8]
```diff
@@ -545,8 +560,10 @@ Instance mkνType0: νType 0.
   - intros; now le_contra Hp.
   - intros; now le_contra Hp.
   - intros; now le_contra Hq.
+  - intros; now simpl.
```
Comment (artagnon) [inline theories/νType/νType.v:563]:
```suggestion
  - now intros.
```

File: theories/νType/νType.v [hunk 9]
```diff
@@ -564,12 +581,14 @@ Instance mkνTypeSn {n} (C: νType n): νType n.+1 :=
...
     eqRestrFrame0 := ltac:(now intros *);
     eqRestrFrameSp := ltac:(now intros *);
+    eqPainting0 := ltac:(intros *; simpl; now apply mkPaintingType_base_computes');
     eqPaintingSp := ltac:(intros *; now apply mkPaintingType_step_computes);
     eqPaintingSp' := ltac:(intros *; now apply C.(eqPaintingSp));
     eqRestrPainting0 := ltac:(intros *; simpl;
       now rewrite mkRestrPainting_base_computes, rew_rew');
     eqRestrPaintingSp := ltac:(intros *; simpl;
       now rewrite mkRestrPainting_step_computes, rew_rew');
+    eqRestrPainting0' := ltac:(intros *; now apply (C .(eqRestrPainting0)));
```
Comment (artagnon) [inline theories/νType/νType.v:591]:
```suggestion
    eqRestrPainting0' := ltac:(intros *; now apply (C.(eqRestrPainting0)));
```

File: theories/νType/νType.v [hunk 10]
```diff
@@ -591,6 +610,399 @@ Arguments next {n X} _.
 (** The final construction *)
 Definition νTypes := νTypeFrom 0 tt.
 
+Class νTypeFamily := {
+ family n : νType n;
+ eqPrefix {n} : (family n.+1) .(prefix) = sigT (fun D => (family n).(Frame).(frame n) D -> HSet@{m}) :> Type;
```
Comment (artagnon) [inline theories/νType/νType.v:615]:
```suggestion
 eqPrefix {n} : (family n.+1).(prefix) = sigT (fun D => (family n).(Frame).(frame n) D -> HSet@{m}) :> Type;
```

I'm not sure if you need to write it as a literal "sigT", and not use the notation? Isn't the `:> Type` at the end sufficient?

File: theories/νType/νType.v [hunk 11]
```diff
@@ -232,6 +234,11 @@ Class νType n := {
     rew <- [id] eqPaintingSp' in
       (RestrLayer ε l; rew [PaintingPrev.(painting')] eqRestrFrameSp in
         Painting.(restrPainting) p.+1 q.+1 Q);
+  eqRestrPainting0' {p} {Hp : p.+2 <= n} {ε : arity} {D d}
```
Comment (artagnon) [inline theories/νType/νType.v:237]:
```suggestion
  eqRestrPainting0' {p} {Hp: p.+2 <= n} {ε: arity} {D d}
```

You can just do a find-and-replace " : " with ": ", as this is the convention we've tried to use in the rest of the file.

File: theories/νType/νType.v [hunk 12]
```diff
@@ -591,6 +610,399 @@ Arguments next {n X} _.
...
+   rew <- [id] (family n) .(eqPaintingSp) in (
+     fun ε => rew [(family n) .(PaintingPrev) .(painting')] eqRestrFrame p p ε in 
+              rew [id] eqPainting' p in l ε ;
+     rew [(family n) .(Painting) .(painting) ((rew [id] eqPrefix in D).2)] eqFrameDistr p in
+     rew [id] eqPainting p.+1 in Q);
+}.
+
+Instance νTypeAtFamily : νTypeFamily := {|
+  family := νTypeAt;
+  eqPrefix := ltac:(intros; exact eq_refl);
```
Comment (artagnon) [inline theories/νType/νType.v:662]:
```suggestion
  eqPrefix := ltac:(intros; now exact eq_refl);
```

Similarly below.

File: theories/νType/νType.v [hunk 13]
```diff
@@ -591,6 +610,399 @@ Arguments next {n X} _.
...
+ (Cs .(family) n.+1) .(Painting) .(restrPainting) p q (ε := ε) l).
+Proof.
+  rewrite (find_painting_compute_step p q.+1).
+  revert d l.
+  apply le_induction'' with (Hp := Hpq); clear p Hpq.
+  + intros d l.
+    rewrite find_painting_compute_base. simpl.
+    destruct (destruct_painting q l) as [[l' Q] []].
+    repeat rewrite rew_opp_r.
+    now rewrite <-eqRestrPainting0.
```
Comment (artagnon) [inline theories/νType/νType.v:933]:
```suggestion
    now rewrite <- eqRestrPainting0.
```

File: theories/νType/νType.v [hunk 14]
```diff
@@ -591,6 +610,399 @@ Arguments next {n X} _.
...
+    destruct (destruct_painting p l) as [[l' Q] []].
+    rewrite ((Cs .(family) n.+1) .(eqRestrPaintingSp) p q).
+    rewrite (eqPaintingDistr p).
+    rewrite (find_painting_compute_step p n).
+    repeat rewrite rew_opp_r. simpl.
+    rewrite (rew_permute_ll _ 
+     (Cs .(family) n.+1) .(PaintingPrev) .(painting') _ _ _
+     (fun d => (Cs .(eqPainting) p.+1))).
+    rewrite (rew_map ((Cs .(family) n) .(Painting) .(painting) (rew [id] Cs .(eqPrefix) in D).2)
+     (fun d => rew [id] Cs .(eqFrame) p.+1 in d)).
```
Comment (artagnon) [inline theories/νType/νType.v:945]: Can do rewrite ... with to simplify a bit?

File: theories/νType/νType.v [hunk 15]
```diff
@@ -1022,6 +1434,1261 @@ CoInductive νDgnTypeFrom n' (X: (νTypeAt n'.+1).(prefix)) (M: νTypeFrom n'.+1
...
+    exact (P .(PermutePaintingBelow) .(permutePaintingBelow) q (L := R.2) c).
+Defined.
+
+#[local]
+Instance mkPermuteFrameBelow0 {n'} {C: νType n'.+2} (P : Permute C) :
+  PermuteFrameBelowBlock (mkνTypeSn C) O (mkPermutePrev P).
+  unshelve esplit.
+  * intros; auto.
+  * intros; auto.
+  * intros; auto.
```
Comment (artagnon) [inline theories/νType/νType.v:1962]: Does `now intros` work?

File: theories/νType/νType.v [hunk 16]
```diff
@@ -1022,6 +1434,1261 @@ CoInductive νDgnTypeFrom n' (X: (νTypeAt n'.+1).(prefix)) (M: νTypeFrom n'.+1
...
+                  (fun d => P .(PermuteFrameAbove) .(permuteFrameAbove) q d)
+                  (fun d c => P .(PermutePaintingAbove) .(permutePaintingAbove) q c)).
+        rewrite (rew_map (C .(Painting) .(painting) D.2) (fun d =>rew <- [id] C .(eqFrameSp) in d)).
+        rewrite <-(rec (↑ Hqp) E L _ c'). clear rec.
+        repeat rewrite (rew_compose (C .(Painting) .(painting) D.2)).
+        apply (f_equal (fun eq => rew [C .(Painting) .(painting) D.2] eq in _)).
+        exact ((C .(Frame) .(frame p.+3) D.1) .(UIP)).
+Defined.
+
+Instance mkPermutePaintingBelow {n'} {C: νType n'.+2} (P : Permute C) p :
```
Comment (artagnon) [inline theories/νType/νType.v:2387]: Wow, what a proof! I wonder if we can split it up?

File: theories/νType/νType.v [hunk 17]
```diff
@@ -1022,6 +1434,1261 @@ CoInductive νDgnTypeFrom n' (X: (νTypeAt n'.+1).(prefix)) (M: νTypeFrom n'.+1
...
+    rewrite le_induction''_base_computes.
+    rewrite rew_opp_r.
+    rewrite rew_opp_r.
+    destruct p; exact eq_refl.
+  + intros. simpl.
+    rewrite le_induction''_step_computes.
+    now rewrite rew_opp_r.
+Defined.
+
+Fixpoint νPermuteTypeAt n': Permute (νTypeAt n'.+2) :=
```
Comment (artagnon) [inline theories/νType/νType.v:2687]: For completeness, could you also supply some examples at the end of the section?

**Review by artagnon — COMMENTED** [review]
Thanks a lot! This seems like a great piece of work! I've done a quick first review: it would be great if you could fix whitespace and other minor issues. I'm also okay with merging this as-is, and fixing it up myself, if you don't have time.

Let me know your preference: you've put up several commits; would you like me to squash and merge as one commit or rebase and preserve the history? If the former, could you kindly write the commit message you'd like in the PR title/description? If the latter, perhaps you'd like to clean up the history a bit with `git rebase --interactive`? We can also use your history as-is if you prefer.

File: theories/νType/νType.v (hunk 7 above)
Comment (alicelaroche) [reply theories/νType/νType.v:413]: Ah indeed.
This caused an issue at line 1262 but it could be solved by adding an `[id]`

File: theories/νType/νType.v (hunk 10 above)
Comment (alicelaroche) [reply theories/νType/νType.v:615]: When it tried using the notation for sigT it didn't work because it was overridden by hsigT notation.
But it only picked up Rocq this year so it may have missed something.

File: theories/νType/νType.v (hunk 16 above)
Comment (alicelaroche) [reply theories/νType/νType.v:2387]: Oh yes you're right. It should split up almost every instance proof to be honest.
It will do that this week-end.

**Comment by alicelaroche** [comment]
Yes so the history was lost due to a bad rebase, at this point it thinks squashing the commit is the best thing to do.
It wanted to address the various issues you pointed last weekend but its computer died so it is waiting to get the replacement.
As for the commit message, would something among the line of "adding Permutions of υTypes from Alice Laroche's internship" be satisfactory?

**Comment by artagnon** [comment]
> Yes so the history was lost due to a bad rebase, at this point it thinks squashing the commit is the best thing to do. It wanted to address the various issues you pointed last weekend but its computer died so it is waiting to get the replacement. 

Oh, that's unfortunate. We can go ahead and squash-merge this then. If you have a desire to work on it further, I can give you write access to the repository, but it is entirely up to you: Hugo and I can work on it otherwise.

> As for the commit message, would something among the line of "adding Permutions of υTypes from Alice Laroche's internship" be satisfactory?

Could you kindly edit the title and description of the PR then to the final form? That's what will be used as the final commit message when squash-merging.

**Comment by artagnon** [comment]
> > As for the commit message, would something among the line of "adding Permutions of υTypes from Alice Laroche's internship" be satisfactory?
> 
> Could you kindly edit the title and description of the PR then to the final form? That's what will be used as the final commit message when squash-merging.

Never mind, it's merged now! 🎉
